US06713474B2
4- Nitrochloroformate (12.5 mg, 0.062 mmol) in dichloromethane (1 mL) was cooled on an ice-water bath. 4-Methylmorpholine (7 uL, 0.062 mmol) was added slowly. After 20 minutes, the ice-water bath was removed and the reaction mixture was allowed to warm up to room temperature. 3-(4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-cyclopentanol (20 mg, 0.052 mmol) was added and the reaction mixture was stirred for 4days. The reaction mixture was diluted with dichloromethane. The organic layer was washed with water, saturated sodium bicarbonate, brine, dried over MgSO4, filtered and evaporated to give a yellow solid. A solution of the yellow solid in dichloromethane (1 mL) was added to 2-morpholino-1-ethanamine (0.2 mL). After stirring at room temperature overnight, the reaction mixture was diluted with ethyl acetate. The organic layer was washed with water (3 times), brine, dried over MgSO4, filtered and evaporated. The crude product was purified by HPLC to give 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl N-(2-morpholinoethyl)carbamate (17 mg, 0.031 mmol). 1H NMR (CDCl3-d) δ 2.08 (m, 4H), 2.43 (m, 7H), 2.73 (m, 1H), 3.29 (m, 2H), 3.67, (m, 4H), 5.28 (m, 5H), 7.09 (m, 6H), 7.40 (m, 4H), 8.30 (s, 1H). LC/MS: MH+=543, tr=2.13 min. (Pecospher, 3C-18, 3 um, 4.6×33 mm; 0-100% acetonitrile—0.1 M ammonium acetate over 5 min, 3.5 ml/min).

reactant | 4-Methylmorpholine | 0.062 mmol, 7 uL | CN1CCOCC1 | C5H11NO
reactant | 3-(4-Amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-1-cyclopentanol | 0.052 mmol, 20 mg | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)C2CC(CC2)O | C23H22N4O2
reactant | 2-morpholino-1-ethanamine | 0.2 mL | O1CCN(CC1)CCN | C6H14N2O
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]cyclopentyl N-(2-morpholinoethyl)carbamate | 0.031 mmol, 17 mg | O1CCN(CC1)CCNC(OC1CC(CC1)N1C=C(C2=C1N=CN=C2N)C2=CC=C(C=C2)OC2=CC=CC=C2)=O | C30H34N6O4
